US09169249B2
To a CH2Cl2 (22 ml) solution of (S)-tert-butyl 4,4-difluoro-2-(hydroxymethyl)pyrrolidine-1-carboxylate (2.65 g, 11.2 mmol) and Et3N (2.3 ml, 16.8 mmol), at 0° C., methylsulfonyl chloride (0.95 ml, 12.3 mmol) was added dropwise over ˜2 minutes, ice bath was removed after 15 minutes, and stirring was continued at room temperature for another 30 minutes. Reaction went to completion as monitored by LC-MS. The reaction mixture was cooled to 0° C. and was quenched by addition of saturated aqueous solution of NaHCO3 (˜30 ml), stifling was continued at 0° C. for 5 minutes and at room temperature for 15 minutes. Two layers were separated, aqueous layer was extracted with CH2Cl2 (˜30 ml). Organic layers were combined, washed with brine (˜25 ml), dried (Na2SO4), filtered, solvent was removed in vacuo. Compound ((S)-1-(tert-butoxycarbonyl)-4,4-difluoropyrrolidin-2-yl)methyl methanesulfonate was obtained as a very light yellow oil: 3.40 g (96% crude yield).

reactant | (S)-tert-butyl 4,4-difluoro-2-(hydroxymethyl)pyrrolidine-1-carboxylate | 11.2 mmol, 2.65 g | FC1(C[C@H](N(C1)C(=O)OC(C)(C)C)CO)F | C10H17F2NO3
reactant | Et3N | 16.8 mmol, 2.3 ml | CCN(CC)CC | C6H15N
reactant | methylsulfonyl chloride | 12.3 mmol, 0.95 ml | CS(=O)(=O)Cl | CH3ClO2S
solvent | CH2Cl2 | 22 ml | C(Cl)Cl | CH2Cl2
product | ((S)-1-(tert-butoxycarbonyl)-4,4-difluoropyrrolidin-2-yl)methyl methanesulfonate | CS(=O)(=O)OC[C@H]1N(CC(C1)(F)F)C(=O)OC(C)(C)C | C11H19F2NO5S
